US07250442B2
3-(3,5-Dimethyl-phenyl)-3-hydroxy-1,3-dihydro-indol-2-one
Using a method similar to Preparation 18 with isatin (1.47 g, 10 mmol) and 3,5-dimethylphenylmagnesium bromide (0.5M in THF, 42 mL, 21 mmol) gave 2.06 g (81%) of the title compound as a peach-color solid. MS (ES): m/z=236 (M+1−H2O), 252 (M−1); 1H NMR(DMSO-d6): δ10.34 (s, 1H), 7.23 (dt, J=1.3 Hz, J=7.6 Hz, 1H), 7.07 (d, J=6.7 Hz, 1H), 6.95 (dt, J=0.9 Hz, J=7.4 Hz, 1H), 6.88 (m, 4H), 6.51 (s, 1H), 2.21 (s, 6H).

reactant | isatin | 10 mmol, 1.47 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 3,5-dimethylphenylmagnesium bromide | 21 mmol, 0.5M, 42 mL | CC=1C=C(C=C(C1)C)[Mg]Br
product | 3-(3,5-Dimethyl-phenyl)-3-hydroxy-1,3-dihydro-indol-2-one | 2.06 g, 81% | CC=1C=C(C=C(C1)C)C1(C(NC2=CC=CC=C12)=O)O | C16H15NO2
